US07230017B2
(1R)-2-Methoxy-1-methyl-2-oxoethyl 3-oxobutanoate
Methyl (2R)-2-hydroxypropanoate (5.0 g, 48 mmol) and triethylamine (49 mg, 0.48 mmol) are dissolved in toluene (40 ml). At 90° C., diketene (5.2 g, 62.4 mmol) is added dropwise. The reaction mixture is stirred at 100° C. for one hour. After cooling to room temperature, the mixture is poured into ice-water. The phases are separated and the aqueous phase is extracted with toluene two times. The combined organic phases are dried over sodium sulfate, the solvent is removed in vacuo and the residue is purified by column chromatography on silica with cyclohexane/ethyl acetate mixtures as eluent.

reactant | Methyl (2R)-2-hydroxypropanoate | 48 mmol, 5.0 g | O[C@@H](C(=O)OC)C | C4H8O3
reactant | triethylamine | 0.48 mmol, 49 mg | C(C)N(CC)CC | C6H15N
reactant | diketene | 62.4 mmol, 5.2 g | C=C1CC(=O)O1 | C4H4O2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | (1R)-2-Methoxy-1-methyl-2-oxoethyl 3-oxobutanoate | O=C(CC(=O)O[C@@H](C(=O)OC)C)C | C8H12O5
